2122-04-13 10:44:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Cholangitis
   Respiratory Failure
   Congestive Heart Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   PRESEP CATHETER - START [**2122-4-12**] 09:32 PM
   -Patient with intubation for ERCP which was completed today--fungative
   4cm mass at level of papilla
   -SEPSIS treated with IVF and able to wean levophed to off
   -A-line unable to be placed
   -Improved perfusion seen--CVO2 increased to 60
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2122-4-12**] 10:20 PM
   Piperacillin/Tazobactam (Zosyn) - [**2122-4-13**] 05:46 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-4-13**] 12:04 AM
   Dextrose 50% - [**2122-4-13**] 07:02 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2122-4-13**] 10:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**24**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.8
C (96.4
   HR: 112 (96 - 119) bpm
   BP: 104/41(58) {104/39(56) - 110/41(58)} mmHg
   RR: 14 (14 - 31) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 160 (3 - 160)mmHg
   Mixed Venous O2% Sat: 65 - 65
   Total In:
                                                                    236 mL
                                                                  6,922 mL
   PO:
   TF:
   IVF:
                                                                    236 mL
                                                                  2,872 mL
   Blood products:
   Total out:
                                                                    360 mL
                                                                    640 mL
   Urine:
                                                                    360 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -124 mL
                                                                  6,282 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///14/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+--cool right extremity and able to doppler pulse but
   concerning for arterial compromise
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.1 g/dL
   152 K/uL
   55 mg/dL
   1.9 mg/dL
   14 mEq/L
   3.7 mEq/L
   40 mg/dL
   108 mEq/L
   136 mEq/L
   31.2 %
   13.1 K/uL
        [image002.jpg]
                             [**2122-4-12**]  07:19 PM
                             [**2122-4-13**]  02:36 AM
   WBC
   8.5
   13.1
   Hct
   24.2
   31.2
   Plt
   117
   152
   Cr
   2.1
   1.9
   TropT
   0.02
   0.05
   Glucose
   66
   55
   Other labs: PT / PTT / INR:13.4/30.3/1.1, CK / CKMB /
   Troponin-T:26/4/0.05, ALT / AST:98/291, Alk Phos / T Bili:794/5.3,
   Amylase / Lipase:/177, Differential-Neuts:85.4 %, Lymph:10.5 %,
   Mono:1.6 %, Eos:2.3 %, Lactic Acid:2.1 mmol/L, Albumin:1.5 g/dL,
   Ca++:7.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Imaging: CXR--small left sided effusion noted.
   CT--large gallstone,
   Assessment and Plan
   75 yo female admitted from OSH with hypotension/sepsis all concerning
   for cholangitis following one month of abdominal pain in the setting of
   decreased po intake and now with progressive dyspnea and peripheral
   edema.  Initially she was treated for UTI with bactrim with incomplete
   response.  She then evolved worsening abdominal discomfort and was
   found to have severe obstruction of biliary system with obstructing
   stone and was then transferred to [**Hospital1 19**] for further care in
   anticipation of ERCP and stone removal.
   1)ACUTE RENAL FAILURE-Patient above baseline and with sepsis has likely
   poor perfusion and resultant ATN
   -Follow urine output
   -Avoid nephrotoxic meds
   -Trend creatinine
   -Check urine lytes and urine sediment
   2)RESPIRATORY FAILURE--Patient intubated peri-procedure and had
   clearance of mucus plug and improved wheezing noted.  We have evidence
   of emesis peri-intubation but no aspiraiton admitted to.  We have
   patient with wheezing and now with minimal resistance on ventilator all
   consistent with poor compliance and will need to work to wean
   ventilator support as possible in the setting of treatment for sepsis.
   -Will move to PSV when able
   -Continue with A/C
   SEPSIS WITHOUT ORGAN DYSFUNCTION-_Likely related to biliary obstruction
   with cholecystitis and cholangitis with mass seen at papilla which
   suggests that obstruction may well be related to mass leading to
   obstruction and subsequent sepsis seen on exam.
   -AM cortisol normal
   -IVF given and CVP has improved
   -Vanco/Cefepime/Flagyl
cover for abdominal and possible pulmonary
   source
   -Will follow cultures and clinical course to look for resolution
   CHOLANGITIS
S/P ERCP
   -Stent placed
   -Will look to drainage
   -Will need pathology on mass as this will instruct long term
   intervention and treatment with concern for possible cholangiocarinoma.
   CONGESTIVE HEART FAILURE-
   -Will need ECHO to follow up and define EF
   -Hold lasix and anti-hypertensive
   -Follow enzymes
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   Presep Catheter - [**2122-4-12**] 09:32 PM
   20 Gauge - [**2122-4-12**] 09:33 PM
   18 Gauge - [**2122-4-12**] 09:33 PM
   Prophylaxis:
   DVT: SQ HEparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2122-04-14 09:55:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Respiratory Faiure
   Altered Mental Status
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
 ERCP - At [**2122-4-13**] 09:09 AM
 INVASIVE VENTILATION - START [**2122-4-13**] 10:20 AM
 ARTERIAL LINE - START [**2122-4-13**] 04:11 PM
   ERCP--10cm fungating mass in ampulla seen with stent placed.
   Patient with cyanosis of right foot and decreased pulse with heparin
   started after consultation with vascular surgery
   Heparin held with CVL attempt and unable to place catheter.
   vascular in for re-evaluation and heparin suggested.
   Head CT with large hypotdensity in right cortex--heparin suggested by
   neurology as well.
   Now--patient with right pupil dilated and concerning for fixed
   following restart of heparin--urgent head CT ordered today.  Head CT
   without clear evidence of hemorrhage
   vasopressin added to levophed with persistent hypotension noted
   History obtained from Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2122-4-12**] 10:20 PM
   Piperacillin/Tazobactam (Zosyn) - [**2122-4-13**] 05:46 AM
   Cefipime - [**2122-4-13**] 02:06 PM
   Metronidazole - [**2122-4-14**] 07:28 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 125 mcg/hour
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2122-4-13**] 03:00 PM
   Fentanyl - [**2122-4-13**] 03:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Flowsheet Data as of  [**2122-4-14**] 09:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**24**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.2
C (98.9
   HR: 111 (72 - 147) bpm
   BP: 99/47(65) {85/41(58) - 139/69(90)} mmHg
   RR: 15 (14 - 29) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 15 (9 - 20)mmHg
   Total In:
                                                                  9,830 mL
                                                                  3,967 mL
   PO:
   TF:
   IVF:
                                                                  5,780 mL
                                                                  3,967 mL
   Blood products:
   Total out:
                                                                    895 mL
                                                                    385 mL
   Urine:
                                                                    895 mL
                                                                    385 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  8,935 mL
                                                                  3,582 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (450 - 500) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 32 cmH2O
   Plateau: 30 cmH2O
   Compliance: 20 cmH2O/mL
   SpO2: 100%
   ABG: 7.40/21/159/15/-8
   Ve: 6.6 L/min
   PaO2 / FiO2: 398
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: upper and lower extremities with mottled appearance and DP
   pulses are completely absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, No(t)
   Sedated, Tone: Not assessed
we have no evidence of differential
   responses with reflexes and tone bilaterally.
   Labs / Radiology
   7.7 g/dL
   107 K/uL
   217 mg/dL
   1.8 mg/dL
   15 mEq/L
   3.3 mEq/L
   37 mg/dL
   113 mEq/L
   138 mEq/L
   24.0 %
   10.6 K/uL
        [image002.jpg]
                             [**2122-4-12**]  07:19 PM
                             [**2122-4-13**]  02:36 AM
                             [**2122-4-13**]  02:32 PM
                             [**2122-4-13**]  02:43 PM
                             [**2122-4-13**]  06:43 PM
                             [**2122-4-13**]  08:30 PM
                             [**2122-4-14**]  12:37 AM
                             [**2122-4-14**]  02:51 AM
                             [**2122-4-14**]  03:22 AM
                             [**2122-4-14**]  05:38 AM
   WBC
   8.5
   13.1
   17.2
   10.6
   Hct
   24.2
   31.2
   31.9
   24.0
   Plt
   117
   152
   137
   107
   Cr
   2.1
   1.9
   1.8
   1.8
   TropT
   0.02
   0.05
   TCO2
   15
   10
   11
   10
   16
   13
   Glucose
   66
   55
   102
   217
   Other labs: PT / PTT / INR:16.4/40.3/1.5, CK / CKMB /
   Troponin-T:26/4/0.05, ALT / AST:72/249, Alk Phos / T Bili:579/3.2,
   Amylase / Lipase:/79, Differential-Neuts:84.0 %, Band:0.0 %, Lymph:11.0
   %, Mono:4.0 %, Eos:1.0 %, D-dimer:4180 ng/mL, Fibrinogen:324 mg/dL,
   Lactic Acid:4.5 mmol/L, Albumin:1.2 g/dL, LDH:1590 IU/L, Ca++:6.2
   mg/dL, Mg++:1.7 mg/dL, PO4:4.3 mg/dL
   Imaging: CXR--worsening opacity in Left Lower Lung Region
   CT-Extensive adenopathy in mediastinum--pre-aortic and para-tracheal.
   Large left sided effusion noted with associated collapse of left lower
   lobe
   gallbladder appears to be decreased in size from previous image
   Microbiology: BC-All pending
   Assessment and Plan
   75 yo female with iniital admission with sepsis and cholangitis found
   to have concerning mass lesion in ampulla consistent with
   adenocarcinoma and course complicated by persistent sepsis and
   respiratory failure with evolution of limb ischemia and persistent
   altered mental status.
   1) RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])-This is secondary to
   severe metabolic acidosis with associated respiratory failure in the
   setting fo bilateral effusions.
   -Will continue with support with optimized ventilatory support
   -Will need to consider patient at high risk for evolution of ARDS
   -We will see continued need for maintenance of effective ventilation to
   look to sedate patient to tolerate effective ventilation.
   -Will look to maintain Ve at 8-10 with Vt at 6cc/Kg at this time
   -Will need titration to ABG across the day
   2) SEPSIS WITHOUT ORGAN DYSFUNCTION-Persistent and severe compromise in
   perfusion despite CVP at >12 and requiring 2 pressors and now adding a
   3^rd.  ScVO2 has been >90%, we have CVP at 12 this morning.  This is
   all consistent with severe vasodilatory state with distributative shock
   with concern for infection from possible biliary source and or possible
   pneumonia.  We will need to reverse infection with
   -Evaluation with radiology to consider percutaneous drainage of
   gallbladder system
   -Pulmonary opacities are seen with collapse suggested in LLL with
   associated bilateral infusions
   -Will maintain support with pressors
   -Antibiotics with vanco/cefepime/Zosyn/Flagyl
   -Will utilize pressors to maintain adequate blood pressure support.
   -[**Last Name (un) **] stim if not responding
   3)ACUTE RENAL FAILURE-METABOLIC ACIDOSIS-
   -Will look to support through what is likely ATN at this time
   -Will continue to utilize pressors in excess of fluids at this time
   -Renal dose medications
   4)ALTERED MENTAL STATUS--WITH HYPODENSITY ON CT SCAN
now with
   persistent COMA-This is with decreased responsiveness and concern for
   new focal density with metastatic disease postulated.
   -[**Month (only) 51**] be a combination of metastatic disease
   -[**Month (only) 51**] be a contribution of toxic-metabolic insult with sepsis
   -We do have a concern for possible CNS bleed but not seen on repeat CT
   this morning
   -Neurology following and will return to anticoagulation
   5)CHOLANGITIS-_We have stent placed with drainage but now with
   persistent and severe sepsis.  We do not see clear evidence of
   persistent obstruction but will have to consider imaging with radiology
   to consider drainage in light of
   6)LIMB ISCHEMIA-
   -Return to IV heparin at this time given concern for thrombus in lower
   extremity
   -Will follow with vascular surgery and trial nitro-paste to area
   locally to work to maintain optimal perfusion of distal extremity
   -Will need diagnostic testing for evaluation
   ICU Care
   Nutrition: Tube Feeds
   Glycemic Control:
   Lines:
   Presep Catheter - [**2122-4-12**] 09:32 PM
   20 Gauge - [**2122-4-12**] 09:33 PM
   18 Gauge - [**2122-4-12**] 09:33 PM
   Arterial Line - [**2122-4-13**] 04:11 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Patient with severe and acute worsening
   across time and will look to discuss current prognosis and plan with
   family and will need diagnosis from biopsy at earliest possible time
   but clinical course does not appear favorable and concern for evolution
   to death is likely scenario
   Code status: Full code
   Disposition :ICU
   Total time spent: 75 minutes

2122-04-15 07:49:00 Physician Resident Progress Note
Chief Complaint: Abdominal Pain
   [**Hospital Unit Name 1**] Admission: Septic Shock s/p ERCP
   24 Hour Events:
   - curbsided Neuro for hypodensities & they recommended MRI to further
   characterize mets vs. stroke before anticoagulating - they later came
   by and staffed the case and recommended heparinizing the patient with
   repeat head CT in 12 hours, an EEG in the morning, and MRI w&w/out as
   above
   - progressively more hypotensive, maxed out on neo, levo, and
   vasopressin
   - on exam this AM @5:30, concern patient with dilated, fixed right
   pupil so heparin stopped but head CT was stable
   - plan to replace CVL, RIJ vs. subclavian but given worsening clinical
   status, this was deferred
   - CT-CAP: 1. 6mm RUL nodule, 2. extensive mediastinal LAD suggestive of
   lymphoma, 3. b/l pleural effusion with atelectasis, 4. cholelithiasis,
   5. splenic infarcts, 6. renal infarct, umbilical hernia with hyperdense
   lesion likely barium in diverticulum vs strangulated epiploic
   appendigitis.
   - path prelim read: high-grade poorly differentiated malignant tumor,
   but possibly lymphoma vs. carcinoma vs less likely melanoma.  stains
   pending
   - family meeting --> patient made DNR/DNI with no escalation of care
   - started on bicarb drip for worsening metabolic acidosis
   - heparin restarted
   - steroids started for empiric treatment of lymphoma and for refractory
   shock
   - added on tumor lysis labs given starting steroids.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2122-4-13**] 05:46 AM
   Vancomycin - [**2122-4-14**] 08:19 PM
   Cefipime - [**2122-4-14**] 11:07 PM
   Metronidazole - [**2122-4-15**] 12:56 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Norepinephrine - 0.5 mcg/Kg/min
   Phenylephrine - 5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-4-15**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**24**] AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 132 (108 - 134) bpm
   BP: 146/63(95) {146/63(95) - 146/63(95)} mmHg
   RR: 32 (6 - 32) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 18 (14 - 27)mmHg
   Total In:
                                                                 10,571 mL
                                                                  2,477 mL
   PO:
   TF:
   IVF:
                                                                 10,571 mL
                                                                  2,477 mL
   Blood products:
   Total out:
                                                                    630 mL
                                                                    175 mL
   Urine:
                                                                    630 mL
                                                                    175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  9,941 mL
                                                                  2,302 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 300 (300 - 500) mL
   Vt (Spontaneous): 598 (598 - 598) mL
   PS : 10 cmH2O
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI Deferred: Hemodynamic Instability
   PIP: 25 cmH2O
   Plateau: 30 cmH2O
   SpO2: 100%
   ABG: 7.11/38/161/11/-17
   Ve: 8.5 L/min
   PaO2 / FiO2: 268
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   92 K/uL
   8.8 g/dL
   291 mg/dL
   1.9 mg/dL
   11 mEq/L
   4.5 mEq/L
   31 mg/dL
   103 mEq/L
   131 mEq/L
   29.1 %
   25.9 K/uL
        [image002.jpg]
   Ca++:7.3 mg/dL, Mg++:1.7 mg/dL, PO4:6.1 mg/dL
   Differential-Neuts:84.0 %, Band:0.0 %, Lymph:11.0 %, Mono:4.0 %,
   Eos:1.0%
                             [**2122-4-14**]  05:38 AM
                             [**2122-4-14**]  09:36 AM
                             [**2122-4-14**]  12:20 PM
                             [**2122-4-14**]  02:14 PM
                             [**2122-4-14**]  03:05 PM
                             [**2122-4-14**]  05:00 PM
                             [**2122-4-15**]  12:00 AM
                             [**2122-4-15**]  12:08 AM
                             [**2122-4-15**]  04:31 AM
                             [**2122-4-15**]  05:18 AM
   WBC
   19.7
   25.9
   Hct
   27
   27.8
   29.1
   Plt
   130
   92
   Cr
   1.8
   1.9
   1.9
   TCO2
   13
   13
   11
   10
   11
   11
   13
   Glucose
   87
   251
   291
   Other labs:
   PT / PTT / INR:16.9/150.0/1.5,
   CK / CKMB / Troponin-T:26/4/0.05
   ALT / AST:100/374,
   Alk Phos / T Bili:503/1.6
   Amylase / Lipase:52/20,
   D-dimer:4180 ng/mL, Fibrinogen:351 mg/dL
   Lactic Acid:7.1 mmol/L
   Albumin:1.2 g/dL
   LDH:[**2111**] IU/L
   CTAP:
   1. 6mm RUL nodule, 2. extensive mediastinal LAD suggestive of lymphoma,
   3. b/l pleural effusion with atelectasis, 4. cholelithiasis, 5. splenic
   infarcts, 6. renal infarct, umbilical hernia with hyperdense lesion
   likely barium in diverticulum vs strangulated epiploic appendigitis.
   Pathology:
   Ampulla biopsies: Poorly differentiated malignant tumor. Immunostains
   are pending.
   Assessment and Plan
   75 yo female admitted from OSH with septic shock from cholangitis
   following one month of abdominal pain now s/p ERCP demonstrating large
   fungating mass in the ampullary region concerning for malignancy,
   complicated by unresponsiveness off sedation, limb ischemia, right
   frontal lobe ? metastasis, now on maximum doses of three pressors.
   Family meeting yesterday established severity of condition and grave
   prognosis, patient made DNR.
   # Septic Shock:  Patient with worsening leukocytosis, tachycardia,
   biliary infection, and hypotension unresponsive to boluses requiring 3
   pressors. SVO2 94%. CVP 11. Lactate elevated to 7.0 this AM. Coags all
   prolonged with existing thrombocytopenia & anemia.  Fibrinogen 324.
   Patient is currently on Levophed, Vasopressin and Phenylephrine as well
   vanc/cefepime/flagyl.  Critically
   - Hold off on perc drainage for now, but can revisit after results of
   head CT
   - Continue IVF boluses
   - Continue pressors
   - Continue Vanco/Cefepime/Flagyl/Zosyn
   - F/U cultures adjust regimen PRN
   - F/U Final Surgery recs
   # Coma: Patient unresponsive off sedation following ERCP yesterday, now
   with impaired unilateral right pupillary light reflex concerning for
   herniation or brainstem lesion given known hypodensity in the right
   frontal lobe & timing of heparin gtt onset and loss of pupillary
   response. Its unilateral appearance make a toxic or metabolic process
   less likely, but there is no clear midline shift on CT to support
   herniation. Neurology is following.
   - Repeat stat head CT to evaluate for new hemorrhage after restarting
   heparin gtt
   - F/U Neurology recs
   - Head of bed elevation >30 degrees
   - Consider Mannitol & IV Steroids
   - Hyperventilate if e/o for herniation & consult Neurosurgery
   - No anticoagulation for now
   - Family meeting
   # Limb ischemia: Patient with cool, mottled, cyanotic toes and
   bilateral plantar surfaces of LE bilaterally as well as some mottling
   of the right hand. Vascular surgery consulted yesterday for cool right
   foot and recommended Heparin gtt. Heparin initially given, but held for
   CVL placement. Restarted after Neurology consult recommended restarting
   despite known hypodense cortical lesion, but stopped again after
   discovery of pupillary defect despite lack of dp pulses in lower
   extremities bilaterally. Can restart if head CT negative for
   hemorrhage.
   - F/U Vascular surgery recs
   - Consider Nitro paste on extremities to counteract effect of pressors
   # Respiratory Failure: Patient intubated peri-procedure, unable to be
   weaned from vent after failing SBT. Patient demonstrated poor
   compliance on ventilator.  AM ABG 7.4/21/159/13.
   - Continue with A/C with ARDSnet parameters given risk of ARDS
   - Repeat ABG
   # Cholangitis: s/p ERCP demonstrating 10cm fungating mass at the
   ampulla, now with ampullary stent. Biopsy of mass pending, but
   concerning for malignancy. LFT
s trending down.
   - F/U biopsy results
   - Continue broad-spectrum antibiotics
   - IVF
s PRN
   # Acute Renal Failure w/ non-gap acidosis: Patient with baseline Cr of
   1.1, currently Cr 1.8 in context of sepsis, rising lactate, and poor
   perfusion. Non-gap likely due to receipt of HCO3. Urine electrolytes
   demonstrated FeNa of 2.08, suggestive of intrinsic process likely ATN.
   Urine sediment with 3-5 hyaline casts. UOP initially poor (~20cc/hr),
   but since 3AM, UOP has improved ~50-100cc/hr that may indicate improved
   end-organ perfusion.
   - Follow UOP
   - Avoid nephrotoxic medications
   - Renally dose all medications
   -Trend creatinine
   - [**Hospital1 7**] lytes
   # Anemia: Patient with worsening anemia to 24.0 this AM after
   significant blood loss from attempted CVL yesterday in addition to
   significant fluid boluses.
   - Active T&S
   - PIV
s in place
   - Transfuse 1u pRBC
s given end organ ischemia & possible improved
   volume resuscitation
   - [**Hospital1 7**] Hct
   # Thrombocytopenia: Patient with small PLT drop to 107 this AM from 117
   on admission.
   - DIC labs as above
   - Continue to trend
   # dCHF: Patient with TTE demonstrating preserved EF, but no E/E or E/A
   ratio obtained to assess for diastolic dysfunction. However, patient
   carries clinical diagnosis of heart failure.
   -Holding home Lasix 40mg PO BID and Lopressor 25mg PO BID
   -Follow enzymes
   # GERD: Patient on PPI at home.
   - Continue Ranitidine 150mg PO daily for ppx
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2122-4-12**] 09:32 PM
   20 Gauge - [**2122-4-12**] 09:33 PM
   18 Gauge - [**2122-4-12**] 09:33 PM
   Arterial Line - [**2122-4-13**] 04:11 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2122-04-15 10:07:00 Physician Attending Progress Note
Chief Complaint: Shock--Sepsis
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Patient continued with 3 pressor support for sepsis
   -Patient with steroid Rx for refractory sepsis and possible lymphoma
   -Heparin continued for concern for peripheral limb ischemia and
   infarction of kidney and spleen
   -Patient with 12 liters positive fluid balance across past 24 hours
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2122-4-13**] 05:46 AM
   Vancomycin - [**2122-4-14**] 08:19 PM
   Cefipime - [**2122-4-14**] 11:07 PM
   Metronidazole - [**2122-4-15**] 07:39 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Heparin Sodium - 700 units/hour
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Phenylephrine - 5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Flowsheet Data as of  [**2122-4-15**] 09:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**24**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.5
   HR: 134 (109 - 134) bpm
   BP: 146/63(95) {0/0(0) - 0/0(0)} mmHg
   RR: 0 (0 - 32) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 18 (14 - 22)mmHg
   Total In:
                                                                 10,571 mL
                                                                  3,296 mL
   PO:
   TF:
   IVF:
                                                                 10,571 mL
                                                                  3,296 mL
   Blood products:
   Total out:
                                                                    630 mL
                                                                    185 mL
   Urine:
                                                                    630 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  9,941 mL
                                                                  3,111 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 300 (300 - 300) mL
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI Deferred: Hemodynamic Instability
   PIP: 26 cmH2O
   Plateau: 23 cmH2O
   SpO2: 100%
   ABG: 7.11/38/161/11/-17
   Ve: 8.4 L/min
   PaO2 / FiO2: 268
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Absent), (Left DP pulse: Absent)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, No(t) Bowel sounds present, Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.8 g/dL
   92 K/uL
   291 mg/dL
   1.9 mg/dL
   11 mEq/L
   4.5 mEq/L
   31 mg/dL
   103 mEq/L
   131 mEq/L
   29.1 %
   25.9 K/uL
        [image002.jpg]
                             [**2122-4-14**]  05:38 AM
                             [**2122-4-14**]  09:36 AM
                             [**2122-4-14**]  12:20 PM
                             [**2122-4-14**]  02:14 PM
                             [**2122-4-14**]  03:05 PM
                             [**2122-4-14**]  05:00 PM
                             [**2122-4-15**]  12:00 AM
                             [**2122-4-15**]  12:08 AM
                             [**2122-4-15**]  04:31 AM
                             [**2122-4-15**]  05:18 AM
   WBC
   19.7
   25.9
   Hct
   27
   27.8
   29.1
   Plt
   130
   92
   Cr
   1.8
   1.9
   1.9
   TCO2
   13
   13
   11
   10
   11
   11
   13
   Glucose
   87
   251
   291
   Other labs: PT / PTT / INR:16.9/150.0/1.5, CK / CKMB /
   Troponin-T:26/4/0.05, ALT / AST:100/374, Alk Phos / T Bili:503/1.6,
   Amylase / Lipase:52/20, Differential-Neuts:84.0 %, Band:0.0 %,
   Lymph:11.0 %, Mono:4.0 %, Eos:1.0 %, D-dimer:4180 ng/mL, Fibrinogen:351
   mg/dL, Lactic Acid:7.1 mmol/L, Albumin:1.2 g/dL, LDH:[**2111**] IU/L,
   Ca++:7.3 mg/dL, Mg++:1.7 mg/dL, PO4:6.1 mg/dL
   Fluid analysis / Other labs: PATH--High grade malignancy, final
   diagnosis is pending further staining
   Imaging: CT--Diffuse Adenopathy, Splenic and Renal infactions
   Assessment and Plan
   75 yo female admitted with chlangitis and now with refractory septic
   shock in the setting of extensive and widespread adenopathy concerning
   for widespread malignancy.  She has had persistent sepsis with
   inability to return to meaningful perfusion of tissues as evidenced by
   continued rise in lactate.  We have persistent acidemia despite
   maximized support on the ventilator and utilization of the bicarbonate
   drip.
   1)RESPIRATORY FAILURE-
   -Will continue with A/C support
   -We have continued to maintain low tidal volume ventilation as
   protective strategy to minimize ARDS risk
   2) SEPSIS WITHOUT ORGAN DYSFUNCTION-
   -Steroids in place
   -Pressors at maxium
   -Broad spectrum antibiotics in place
   -Ongoing fluid bolus without effect of durable response in terms of
   blood pressure stability.
   3)Cholangitis-Patient with mass lesion obstructing biliary system with
   stent drainage in place which has local control but we are left with
   diffuse and extensive cancer
   -Continue drainage
   4)Acidemia-
   -Persistent anion gap acidosis with optimization of vent support
   -Will need to continue with HCO3- gtt
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2122-4-12**] 09:32 PM
   20 Gauge - [**2122-4-12**] 09:33 PM
   18 Gauge - [**2122-4-12**] 09:33 PM
   Arterial Line - [**2122-4-13**] 04:11 PM
   Prophylaxis:
   DVT: Heparin gtt
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:  Will have to move to family meeting to
   discuss CMO status in the setting of persistent and refractory shock,
   acidemia in the setting of cholangitis and diffuse high grade
   malignancy without reasonable expectation for meaningful recovery.
   Code status: DNR
   Disposition :ICU
   Total time spent: 75